US04584290
To a solution of benzhydryl 7-tert-butoxycarbonylamino-3-[2-(2-pyrimidinyl)thiovinyl]-3-cephem-4-carboxylate-1-oxide (trans isomer) (4.8 g) in N,N-dimethylformamide (25 ml) was added phosphorus trichloride (0.8 ml) at -30° C. After being stirred for an hour at -30° C., the reaction mixture was poured into a mixture of ethyl acetate (300 ml) and water (300 ml). The separated organic layer was washed in turn with 5% aqueous solium bicarbonate, water and brine. The solvent was evaporated in vacuo to give benzhydryl 7-tert-butoxycarbonylamino-3-[2-(2-pyrimidinyl)thiovinyl]-3-cephem-4-carboxylate (trans isomer) and it was added with acetnitrile (100 ml) and p-toluene sulfonic acid (3.5 g). The mixture was stirred for 2 hours at 35° C. After removal of the solvent the residue was dissolved in ethyl acetate and 5% aqueous sodium bicarbonate. The separated organic layer was washed in turn with water and bine, dried over magnesium sulfate. The solvent was evaporated in vacuo to give benzhydryl 7-amino-3-[2-(2-pyrimidinyl)thiovinyl]-3-cephem-4-carboxylate (trans isomer) (2.5 g).

reactant | benzhydryl 7-tert-butoxycarbonylamino-3-[2-(2-pyrimidinyl)thiovinyl]-3-cephem-4-carboxylate-1-oxide | 4.8 g | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2=O)C=CSC2=NC=CC=N2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C31H30N4O6S2
reactant | phosphorus trichloride | 0.8 ml | P(Cl)(Cl)Cl | Cl3P
reactant | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
reactant | water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | benzhydryl 7-tert-butoxycarbonylamino-3-[2-(2-pyrimidinyl)thiovinyl]-3-cephem-4-carboxylate | C(C)(C)(C)OC(=O)NC1[C@@H]2N(C(=C(CS2)C=CSC2=NC=CC=N2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C31H30N4O5S2
